US06566362B2
1.02 cm3 of 1 N aqueous potassium hydroxide was added, with stirring, to a suspension of 0.46 g of ethyl 8-fluoro-7-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate in 5 cm3 of ethanol and 4 cm3 of water. The mixture was heated at about 80° C. for 2 hours and then evaporated to dryness. The residue was dissolved in 20 cm3 of water, the aqueous phase was washed with 20 cm3 of dichloromethane, acidified with 0.06 cm3 of acetic acid and then extracted 3 times with 50 cm3 of dichloromethane. The organic phase was dried over magnesium sulphate and concentrated to dryness under reduced pressure (20 kPa). The residue obtained was washed twice with 5 cm3 of diisopropyl ether and dried. 0.22 g of 8-fluoro-7-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid was obtained in the form of a yellow solid, which melted at 245° C.

reactant | potassium hydroxide | 1 N, 1.02 cm3 | [OH-].[K+]
reactant | ethyl 8-fluoro-7-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 0.46 g | FC1=C(C2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1)N1CCC(CC1)(C1=CC(=CC=C1)C(F)(F)F)O | C28H25F4N3O4
solvent | ethanol | 5 cm3 | C(C)O | C2H6O
solvent | water | 4 cm3 | O | H2O
product | 8-fluoro-7-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid | 0.22 g | FC1=C(C2=C(C=3C(C(=CN(C3C=N2)C)C(=O)O)=O)C=C1)N1CCC(CC1)(C1=CC(=CC=C1)C(F)(F)F)O | C26H21F4N3O4
